US09340556B2
To neat (R)-2-hydroxysuccinic acid (60 g, 447 mmol) being stirred in ice bath was added TFAA (145 ml, 1029 mmol). The mixture was stirred for 1 h and then at room temperature for 3 h. Toluene was added and the mixture was concentrated under vacuum to afford (R)-2,5-dioxotetrahydrofuran-3-yl 2,2,2-trifluoroacetate (94.7 g, 447 mmol, 100% yield) as a white solid which was used for the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.35-3.59 (m, 2 H) 6.10 (dd, 1 H)

reactant | (R)-2-hydroxysuccinic acid | 447 mmol, 60 g | O[C@@H](C(=O)O)CC(=O)O | C4H6O5
reactant | TFAA | 1029 mmol, 145 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-2,5-dioxotetrahydrofuran-3-yl 2,2,2-trifluoroacetate | 447 mmol, 94.7 g, 100% yield | FC(C(=O)O[C@H]1C(OC(C1)=O)=O)(F)F | C6H3F3O5
